US04019893
The intermediate 2-(2-methylphenylmethylthio)pyridine N-oxide is prepared by the procedure described in Example 2 from α-chloro o-xylene and 2-mercaptopyridine N-oxide sodium salt. Melting point 134° -136° C. Yield 85% theory. Structure confirmed by IR and NMR.

reactant | α-chloro o-xylene | ClCC=1C(=CC=CC1)C | C8H9Cl
reactant | 2-mercaptopyridine N-oxide sodium salt | [Na].SC1=[N+](C=CC=C1)[O-]
product | 2-(2-methylphenylmethylthio)pyridine N-oxide | Yield 85% | CC1=C(C=CC=C1)CSC1=[N+](C=CC=C1)[O-] | C13H13NOS
